US03969463
4-Chloro-6-fluoro-2-trifluoromethylquinoline was reduced with platinum on carbon to give 6-fluoro-2-trifluoromethyltetrahydroquinoline.

reactant | 4-Chloro-6-fluoro-2-trifluoromethylquinoline | ClC1=CC(=NC2=CC=C(C=C12)F)C(F)(F)F | C10H4ClF4N
catalyst | platinum on carbon | [Pt] | Pt
product | 6-fluoro-2-trifluoromethyltetrahydroquinoline | FC=1C=C2CCC(NC2=CC1)C(F)(F)F | C10H9F4N
